US07994164B2
[4-((E)-3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-2-nitro-phenyl]-((7S,8aS)-hexahydro-pyrrolo[2,1-c][1,4]oxazin-7-yl)-amine
Degas three times a mixture of (4-bromo-2-nitro-phenyl)-((7S,8aS)-hexahydro-pyrrolo[2,1-c][1,4]oxazin-7-yl)-amine (0.011 mol, 4.0 g), (E)-3,7-difluoro-11-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-ylmethylene)-6,11-dihydro-dibenzo[b,e]oxepine (0.012 mol, 4.76 g), triphenylphosphine (0.0031 mol, 0.8 g) and sodium methoxide (0.03 mol, 1.6 g) in tetrahydrofuran/methanol (3:1) (120 mL) with nitrogen. Add palladium (II) acetate (1.0 mmol, 240 mg) to the reaction mixture and degas again three times with nitrogen. Heat the reaction mixture at 70° C. for 4 h. Cool the reaction mixture to room temperature, filter through a plug of diatomaceous earth and concentrate the filtrate under reduced pressure to obtain the title compound (5.0 g, crude).

reactant | (4-bromo-2-nitro-phenyl)-((7S,8aS)-hexahydro-pyrrolo[2,1-c][1,4]oxazin-7-yl)-amine | 0.011 mol, 4.0 g | BrC1=CC(=C(C=C1)N[C@H]1C[C@H]2COCCN2C1)[N+](=O)[O-] | C13H16BrN3O3
reactant | (E)-3,7-difluoro-11-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-ylmethylene)-6,11-dihydro-dibenzo[b,e]oxepine | 0.012 mol, 4.76 g | FC=1C=CC/2=C(OCC3=C(\C2=C/B2OC(C(O2)(C)C)(C)C)C=CC=C3F)C1 | C21H21BF2O3
reactant | triphenylphosphine | 0.0031 mol, 0.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium methoxide | 0.03 mol, 1.6 g | C[O-].[Na+]
solvent | tetrahydrofuran methanol | 120 mL | O1CCCC1.CO
catalyst | palladium (II) acetate | 1.0 mmol, 240 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [4-((E)-3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-2-nitro-phenyl]-((7S,8aS)-hexahydro-pyrrolo[2,1-c][1,4]oxazin-7-yl)-amine | 5.0 g | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC(=C(C=C2)N[C@H]2C[C@H]4COCCN4C2)[N+](=O)[O-])C=CC=C3F)C1 | C28H25F2N3O4
